US06331553B1
Synthesis of 6-chloro-2-(3-(t-butoxycarbonylaminomethyl)phenylamino)nicotinic acid
A mixture of 3-(di-(t-butoxycarbonyl)aminomethyl)aniline (81 mg), 2,6-dichloronicotinic acid (90%, 53 mg), di-i-propylethylamine (64 mg) and 1,4-dioxane (1 ml) was heated under reflux for 3 days and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent, methylene chloride:methanol=20:1) to give 24 mg of the titled compound (yield, 25%).

reactant | 3-(di-(t-butoxycarbonyl)aminomethyl)aniline | 81 mg | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)CC=1C=C(N)C=CC1 | C17H26N2O4
reactant | 2,6-dichloronicotinic acid | 53 mg | ClC1=C(C(=O)O)C=CC(=N1)Cl | C6H3Cl2NO2
reactant | di-i-propylethylamine | 64 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | 1,4-dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | 6-chloro-2-(3-(t-butoxycarbonylaminomethyl)phenylamino)nicotinic acid | 24 mg, 25% | ClC1=NC(=C(C(=O)O)C=C1)NC1=CC(=CC=C1)CNC(=O)OC(C)(C)C | C18H20ClN3O4
